US07713993B2
(1) Synthesis of 2-bromoethyl 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylate
DCC (47 mg) was added to a solution of 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylic acid (80 mg) and 2-bromoethanol (0.27 mL), DMAP (5 mg) in DMF (3 mL), and the reaction solution was stirred at room temperature for 15 hours. Then, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 27 mg of the title compound. The property values of the compound are as follows.

reactant | DCC | 47 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylic acid | 80 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C(=O)O | C23H19FN4O3
reactant | 2-bromoethanol | 0.27 mL | BrCCO | C2H5BrO
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromoethyl 5-(4-fluorophenyl)-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1H-imidazole-4-carboxylate | 27 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C(=O)OCCBr | C25H22BrFN4O3
